US06313312B1
3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenol
3-Hexyl-6-(3-hydroxyphenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one (Preparation 84, 0.34 g, 1.2 mmol) was dissolved in tetrahydrofuran (10 ml). Lithium aluminium hydride (1M in diethyl ether, 1.5 ml, 1.5 mmol) was added under nitrogen and the reaction mixture was stirred for 1 h, before adding more lithium aluminium hydride (1M in diethyl ether, 3.0 ml, 3.0 mmol) and stirring the reaction mixture for 16 h. The reaction mixture was quenched by the addition of aqueous sodium hydroxide solution (1M, 50 ml) and the product was extracted with dichloromethane (150 ml). The organic extracts were dried (Na2SO4) and concentrated in vacuo to give a brown waxy solid. The product was purified by chromatography on silica gel, (20 g) eluting with ethyl acetate to give the pure product as a yellow solid (0.17 g, 51%).

reactant | 3-Hexyl-6-(3-hydroxyphenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 1.2 mmol, 0.34 g | C(CCCCC)N1C(C2C(C2C1)(C)C1=CC(=CC=C1)O)=O | C18H25NO2
reactant | Lithium aluminium hydride | 1.5 mmol, 1M, 1.5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 3.0 mmol, 1M, 3.0 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenol | 0.17 g, 51% | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)O | C18H27NO
